US07947851B2
Step d) Formation of 5-({4-[(4-chlorophenyl)ethynyl]benzyl}(hexyl)amino)-2-hydroxybenzoic acid
To a solution of 6-({4-[(4-chlorophenyl)ethynyl]benzyl}(hexyl)amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one (3.40 g, 6.77 mmol) in MeOH (150 mL) was added an aqueous solution of NaOH (5.5 mL, 5N). The reaction mixture was stirred at rt for 1.5 hr and a solid precipitated out. Water (250 mL) was added, and then the precipitate was filtered and washed with water (3×). The solid was taken up with MeOH (150 mL), an aqueous solution of NaOH (5.5 mL, 5N) was added and the resulting mixture was heated at 60° C. for 15 hrs. Then an aqueous solution of HCl (10 mL, 5N) and water (400 mL) were added and the mixture was extracted with Et2O (500+2×250 mL). The combined organic layers were dried over MgSO4 and evaporated under reduced pressure. Purification by crystallization (acetone/water) gave 909 mg (29%) of the title compound as a white powder. HPLC, Rt: 4.5 min (purity: 99.5%). LC/MS, M+(ESI): 462.0, M−(ESI): 459.9. 1H NMR (CDCl3) δ: 7.55 (d, J=8.3 Hz, 2H), 7.48 (m, 4H), 7.26 (d, J=7.9 Hz, 2H), 7.00 (d, J=2.8 Hz, 1H), 6.96 (dd, J=9.0, 2.8 Hz, 1H), 6.78 (d, J=9.0 Hz, 1H), 4.47 (s, 2H), 3.30 (m, 2H), 1.51 (m, 2H), 1.24 (m, 6H), 0.83 (m, 3H).

reactant | 6-({4-[(4-chlorophenyl)ethynyl]benzyl}(hexyl)amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 6.77 mmol, 3.40 g | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC3=C(OC(OC3=O)(C)C)C=C2)CCCCCC)C=C1 | C31H32ClNO3
reactant | NaOH | 5N, 5.5 mL | [OH-].[Na+]
solvent | MeOH | 150 mL | CO | CH4O
product | 5-({4-[(4-chlorophenyl)ethynyl]benzyl}(hexyl)amino)-2-hydroxybenzoic acid | 909 mg, 29% | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)CCCCCC)C=C1 | C28H28ClNO3
